US04720506
147 g of the crude diethyl 2-methyl-2-(4-nitrophenyl)-malonate was dissolved in 600 ml of ethanol, and to this was added a solution of 42.4 g (0.846 mole) of 93% sodium hydroxide in 400 ml of water and the solution was reacted at 50° C. for 3 hours. After that, to the reaction mixture was added 1 l of water and the formed oily substance and an aqueous layer were separated. The aqueous layer was acidified with conc. hydrochloric acid and was extracted with 700 ml of ethyl acetate. The ethyl acetate layer was washed with a saturated solution of sodium chloride and dried over anhydrous magnesium sulfate. After filtering out magnesium sulfate, ethyl acetate was distilled off to give 66.8 g of crude 2-(4-nitrophenyl)propionic acid.

reactant | diethyl 2-methyl-2-(4-nitrophenyl)-malonate | 147 g | CC(C(=O)OCC)(C(=O)OCC)C1=CC=C(C=C1)[N+](=O)[O-] | C14H17NO6
reactant | sodium hydroxide | 0.846 mole, 42.4 g | [OH-].[Na+]
solvent | ethanol | 600 ml | C(C)O | C2H6O
solvent | water | 400 ml | O | H2O
solvent | water | 1 l | O | H2O
product | 2-(4-nitrophenyl)propionic acid | 66.8 g | [N+](=O)([O-])C1=CC=C(C=C1)C(C(=O)O)C | C9H9NO4
